### ISSUE TITLE
Pretty printing for functors and other nested structures.

### ISSUE THREAD

**Issue by adamtopaz** [leanprover-community/mathlib4#2724]
We define functors (in the category theory library) to extend `Prefunctor`, which has data fields `obj` and `map`. When `F` is a functor, we routinely use `F.obj` as a spelling for `F.toPrefunctor.obj`. However, this originally had the unintended consequence that `F.obj X` would pretty print as `Prefunctor.obj F.toPrefunctor X`, which is far from ideal (the `map` field had the analogous issue). In #2545 we introduced some custom unexpanders to address this.

However, this issue is certainly not isolated to functors in the category theory library. One good approach is to add a global `pp` option that would pretty print nested projections through `extends` with the correct (aka concise) dot notation. See also the associated [zulip discussion](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/unexpanders.20for.20functors/near/338492828). If/when such a global option is added, the unexpanders introduced in the PR above should be removed.

Here is a minimal example illustrating the issue:
```lean
structure Foo where
  f : Nat → Nat

structure Bar extends Foo where
  hf : f 0 = 0

example (F G : Bar) (m n : Nat) (h : m = n) : F.f m = F.f n := by
  sorry -- bad pretty printing here...

@[app_unexpander Foo.f] def
  unexpandFoo : Lean.PrettyPrinter.Unexpander
  | `($_ $(F).toFoo $n) => set_option hygiene false in `($(F).f $n)
  | _ => throw ()

example (F G : Bar) (m n : Nat) (h : m = n) : F.f m = F.f n := by
  sorry -- good pretty printing here...
```

**Comment by kmill** [comment]
This is closed by #3811

Now you can do `pp_extended_field_notation Foo.f` to automatically construct this unexpander.

```lean
structure Foo where
  f : Nat → Nat

structure Bar extends Foo where
  hf : f 0 = 0

example (F G : Bar) (m n : Nat) (h : m = n) : F.f m = F.f n := by
  sorry -- bad pretty printing here...
  -- Foo.f F.toFoo m = Foo.f F.toFoo n

pp_extended_field_notation Foo.f

example (F G : Bar) (m n : Nat) (h : m = n) : F.f m = F.f n := by
  sorry -- good pretty printing here...
  -- F.f m = F.f n
```
